US06960584B2
Step 1: 4-Phenyl-1,2-dihydropyridazine-3,6-dione
Phenylmaleic anhydride (30 g, 0.17 mol), sodium acetate trihydrate (28 g, 0.21 mol) and hydrazine monohydrate (10 ml, 0.21 mol) were heated together at reflux in 40% acetic acid (600 ml) for 18 h. The mixture was cooled at 7° C. for 2 h, then filtered. The solid was washed with diethyl ether and dried in vacuo to give 11 g (34%) of the title compound: 1H NMR (250 MHz, DMSO-d6) δ 7.16 (1H, br s), 7.44 (5H, m), 7.80 (2H, br s); MS (ES+) m/e 189 [MH+].

reactant | Phenylmaleic anhydride | 0.17 mol, 30 g | C1(=CC=CC=C1)/C=1/C(=O)OC(\C1)=O | C10H6O3
reactant | sodium acetate trihydrate | 0.21 mol, 28 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydrazine monohydrate | 0.21 mol, 10 ml | O.NN
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 4-Phenyl-1,2-dihydropyridazine-3,6-dione | 11 g, 34% | C1(=CC=CC=C1)C=1C(NNC(C1)=O)=O | C10H8N2O2
